US07612211B2
A. [2-tert-butoxycarbonylamino-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-carbamic acid tert-butyl ester
A mixture of (4-bromo-2-tert-butoxycarbonylamino-phenyl)-carbamic acid tert-butyl ester (2.00 g, 8.73 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.71 g, 0.873 mmol), potassium acetate (1.71 g, 17.5 mmol), and bis(pinacolato)diboron (3.33 g, 13.1 mmol) in DMF (12 mL) was heated at 80° C. for 12 hours. The reaction mixture was then concentrated in vacuo, and the residue was purified by chromatography (silica, hexanes: EtOAc, 2:1) to afford the title compound as an off-white solid (1.88 g, 84%).

reactant | (4-bromo-2-tert-butoxycarbonylamino-phenyl)-carbamic acid tert-butyl ester | 8.73 mmol, 2.00 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Br)NC(=O)OC(C)(C)C)=O | C16H23BrN2O4
reactant | potassium acetate | 17.5 mmol, 1.71 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 13.1 mmol, 3.33 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.873 mmol, 0.71 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-tert-butoxycarbonylamino-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-carbamic acid tert-butyl ester | 1.88 g, 84% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)OC(C)(C)C)=O | C22H35BN2O6
